US06969714B2
5-(3-Dimethylaminoprop-2-enoyl)-1,2-dimethylimidazole
5-(3-Dimethylaminoprop-2-enoyl)-2-methylimidazole (350 mg, 1.95 mmol) was suspended in DMFDMA (14 ml) and the mixture stirred and heated at 100° C. for 56 hours. The excess DMFDMA was removed by evaporation and the residue purified by chromatography eluting with DCM/MeOH (94:6) to give the title compound 111 mg, (29%) as a solid. NMR (CDCl3): 2.40 (s, 3H), 3.00 (s, 6H), 3.88 (s, 3H), 5.50 (d, 1H), 7.47 (s, 1H), 7.65 (d, 1H); m/z 194.

reactant | 5-(3-Dimethylaminoprop-2-enoyl)-2-methylimidazole | 1.95 mmol, 350 mg | CN(C=CC(=O)C1=CN=C(N1)C)C | C9H13N3O
reactant | DMFDMA | 14 ml | CN(C)C(OC)OC | C5H13NO2
product | 5-(3-Dimethylaminoprop-2-enoyl)-1,2-dimethylimidazole | 111 mg, 29% | CN(C=CC(=O)C1=CN=C(N1C)C)C | C10H15N3O
